US06878707B2
To the above solution is added 1300 mL of isopropyl acetate and 930 mL of methanol. The solution is stirred under nitrogen and heated to an internal temperature of 65° C. to achieve a gentle refluxing, over a period of 15 minutes. A solution of 103.1 g of (1S)-(+)-10-camphorsulfonic acid in 660 mL of methanol is added over a period of 15 minutes while maintaining an internal temperature of 60-65° C. to obtain a clear solution followed by 185 mL of methanol to achieve a v/v ratio of isopropyl acetate:methanol of about 2:1. The reaction mixture is cooled to 20-23° C. over a period of 2 hours. The mixture is stirred at room temperature (20-23° C.) for an additional 2 hours. The solid is collected, washed with 500 mL of precooled (to 0-2° C.) mixture of isopropyl acetate and methanol (2:1; v/v) in two equal portions of 250 mL each, and dried at 50-55° C. (100 mm Hg) to obtain crude (R)-5-bromo-2-aminoindane (1S)-(+)-10-camphorsulfonate salt as a white solid. A mixture of 90.0 g of crude (R)-5-bromo-2-aminoindane (1S)-(+)-10-camphorsulfonate salt and 900 mL of methanol is heated to a temperature of 65° C. to achieve a gentle refluxing. This suspension is stirred at 65° C. for 1 hour and the reaction mixture is cooled to 20-23° C. over a period of 2 hours and stirred at 20-23° C. for an additional 2 hours. The resulting solid is collected, washed with 190 mL of precooled (to 0-2° C.) mixture of isopropyl acetate and methanol (1:1; v/v) in two equal portions of 95 mL each. The solid is dried at 50-55° C. (100 mm Hg) to obtain (R)-5-bromo-2-aminoindane (1S)-(+)-10-camphosulfonate salt as a white solid (98.7% optical purity).

reactant | isopropyl acetate | 1300 mL | C(C)(=O)OC(C)C | C5H10O2
reactant | (1S)-(+)-10-camphorsulfonic acid | 103.1 g | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | (R)-5-bromo-2-aminoindane (1S)-(+)-10-camphorsulfonate salt | 90.0 g | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O.BrC=2C=C1C[C@@H](CC1=CC2)N
solvent | methanol | 660 mL | CO | CH4O
solvent | methanol | 900 mL | CO | CH4O
solvent | methanol | 185 mL | CO | CH4O
solvent | methanol | 930 mL | CO | CH4O
product | (R)-5-bromo-2-aminoindane | BrC=1C=C2C[C@@H](CC2=CC1)N | C9H10BrN
